US04556660
To a stirred mixture of 2.1 parts of 3-amino-3-pyrazinecarboxylic acid, 2.8 parts of N,N-dibutylbutanamine and 195 parts of dichloromethane were added 3.83 parts of 2-chloro-1-methylpyridinium iodide. After stirring for 15 minutes at room temperature, 5.5 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine were added and stirring was continued for one hour. The reaction mixture was washed with water, dried, filtered and evaporated. The residue was stirred in 2,2'-oxybispropane. The latter was decanted and the residue was purified by column-chromatography over silica gel using a mixture of trichloromethane and methanol (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 1,1'-oxybisethane, yielding 2.8 parts (38%) of 3-amino-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-pyrazinecarboxamide; mp. 156.9° C. (compound 113).

reactant | 3-amino-3-pyrazinecarboxylic acid | NC1(CN=CC=N1)C(=O)O | C5H7N3O2
reactant | N,N-dibutylbutanamine | C(CCC)N(CCCC)CCCC | C12H27N
reactant | 2-chloro-1-methylpyridinium iodide | [I-].ClC1=[N+](C=CC=C1)C
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-amine | NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C21H26FN5
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-amino-N-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]-2-pyrazinecarboxamide | 38% | NC=1C(=NC=CN1)C(=O)NCCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C26H29FN8O
